US05407599
4-(8-cyclopropyloctyloxy)-2,3-difluorobenzoic acid
1.2 g of 4-(6-cyclopropylhexyloxy)-2,3-difluorobenzoic acid were added to a solution of 0.84 g of dicyclohexyl-carbodiimide, 50 mg of dimethylaminopyridine and 1.15 g of 4-(5-octylpyrimidin-2-yl)phenol in 50 ml of methylene chloride. After a reaction time of 24 hours, the precipitate (dicyclohexylurea) was filtered off with suction. The filtrate was freed from solvent and chromatographed (SiO2, CH2Cl2).

reactant | 4-(6-cyclopropylhexyloxy)-2,3-difluorobenzoic acid | 1.2 g | C1(CC1)CCCCCCOC1=C(C(=C(C(=O)O)C=C1)F)F | C16H20F2O3
reactant | dicyclohexyl-carbodiimide | 0.84 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylaminopyridine | 50 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | 4-(5-octylpyrimidin-2-yl)phenol | 1.15 g | C(CCCCCCC)C=1C=NC(=NC1)C1=CC=C(C=C1)O | C18H24N2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-(8-cyclopropyloctyloxy)-2,3-difluorobenzoic acid | C1(CC1)CCCCCCCCOC1=C(C(=C(C(=O)O)C=C1)F)F | C18H24F2O3
